US07618978B2
5-(3,3-Difluoropyrrolidine-1-carbonyl)-N-methyl-N-propyl-isophthalamic acid
Stir a solution of 5-(3,3-difluoropyrrolidine-1-carbonyl)-N-methyl-N-propyl-isophthalamic acid ethyl ester (270 mg, 0.71 mmol), 1 N lithium hydroxide (1.1 mL, 1.1 mmol) and THF (2.0 mL) at room temperature for 4 h. Add 10 mL water, acidify with 1 N HCl (2 mL), extract with dichloromethane (3×10 mL), dry (sodium sulfate) and concentrate to give the title compound (262 mg, 100%).

reactant | 5-(3,3-difluoropyrrolidine-1-carbonyl)-N-methyl-N-propyl-isophthalamic acid ethyl ester | 0.71 mmol, 270 mg | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C(=O)N1CC(CC1)(F)F)=O | C19H24F2N2O4
reactant | lithium hydroxide | 1.1 mmol, 1 N, 1.1 mL | [OH-].[Li+]
reactant | THF | 2.0 mL | C1CCOC1 | C4H8O
reactant | HCl | 1 N, 2 mL | Cl | ClH
solvent | water | 10 mL | O | H2O
product | 5-(3,3-Difluoropyrrolidine-1-carbonyl)-N-methyl-N-propyl-isophthalamic acid | 262 mg, 100% | FC1(CN(CC1)C(=O)C=1C=C(C=C(C(=O)O)C1)C(=O)N(CCC)C)F | C17H20F2N2O4
